US08685974B2
To a solution of 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidine (1 eq, 12 mmol) in 315 mL of dichloromethane was added meta chloroperbenzoic acid 77% (2 eq, 24 mmol). The mixture was stirred at room temperature for 72 h and then quenched with water. Sodium sulfite (2.1 eq, 25 mmol) was added and the layers were separated. The organic layer was then washed twice with a 2M solution of potassium carbonate, dried over MgSO4 filtered and concentrated to afford 4 g of 4-[3-(5-Chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]-2-(methylsulfonyl)pyrimidine (65% yield) in a 8:2 mixture with the corresponding sulfoxide. The crude material was used in the next step without further purification.

reactant | 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidine | 12 mmol, 1 eq | ClC1=CC=C(S1)C1=NN(C=C1C1=NC(=NC=C1)SC)C(C)C | C15H15ClN4S2
reactant | meta chloroperbenzoic acid | 24 mmol, 2 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium sulfite | 25 mmol, 2.1 eq | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 315 mL | ClCCl | CH2Cl2
product | 4-[3-(5-Chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]-2-(methylsulfonyl)pyrimidine | 4 g, 65% yield | ClC1=CC=C(S1)C1=NN(C=C1C1=NC(=NC=C1)S(=O)(=O)C)C(C)C | C15H15ClN4O2S2
